US09107916B2
C. (2-ethyl-4-methylphenyl)methanol
To a solution of compound methyl 2-ethyl-4-methylbenzoate (646 mg, 3.65 mmol) in THF (6 mL) cooled to −50° C., was added LiAlH4 (277 mg, 7.30 mmol) in portions. The mixture was stirred at this temperature for 1 h. Added water (0.3 mL) slowly, followed by NaOH (aq, 10%, 0.3 mL) and water (0.9 mL), the resulting mixture was filtered and washed with THF, concentrated the filtrate to give 518 mg of the title compound (95%). 1H NMR (400 MHz, CDCl3): δ 1.23 (3H, t, J=7.2 Hz), 1.54 (1H, s), 2.33 (3H, s), 2.68 (2H, q, J=7.6 Hz), 4.67 (2H, s), 7.01 (1H, d, J=8.0 Hz), 7.03 (1H, s), 7.23 (1H, d, J=7.6 Hz).

reactant | methyl 2-ethyl-4-methylbenzoate | 3.65 mmol, 646 mg | C(C)C1=C(C(=O)OC)C=CC(=C1)C | C11H14O2
reactant | LiAlH4 | 7.30 mmol, 277 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.3 mL | O | H2O
reactant | NaOH | 0.3 mL | [OH-].[Na+]
reactant | water | 0.9 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (2-ethyl-4-methylphenyl)methanol | 518 mg, 95% | C(C)C1=C(C=CC(=C1)C)CO | C10H14O
